US08877754B2
3-[4-(4-Ethoxy-phenylethynyl)-phenyl]-propionic acid
To 750 mg (2.33 mmol) 3-[4-(4-ethoxy-phenylethynyl)-phenyl]-propionic acid ethyl ester (XIII.1) in 15 mL MeOH are added 3.49 mL (6.98 mmol) 2N NaOH solution and the mixture is stirred at rt for 12 h. After that time, 7.0 mL 2N HCl are added and the mixture is diluted with water. The precipitate is filtered off, washed with water and dried at 45° C. to yield the desired product.

reactant | 3-[4-(4-ethoxy-phenylethynyl)-phenyl]-propionic acid ethyl ester | 2.33 mmol, 750 mg | C(C)OC(CCC1=CC=C(C=C1)C#CC1=CC=C(C=C1)OCC)=O | C21H22O3
reactant | NaOH | 6.98 mmol, 2N, 3.49 mL | [OH-].[Na+]
reactant | HCl | 2N, 7.0 mL | Cl | ClH
solvent | MeOH | 15 mL | CO | CH4O
solvent | water | O | H2O
product | 3-[4-(4-Ethoxy-phenylethynyl)-phenyl]-propionic acid | C(C)OC1=CC=C(C=C1)C#CC1=CC=C(C=C1)CCC(=O)O | C19H18O3
